plaintext
* SPICE Netlist for the given schematic
* NMOS Transistor
M1 2 5 3 3 NMOS_MODEL
* Resistors
RS 2 3 RS_VALUE
? Missing component
RO2 2 3 RO2_VALUE
* Current Source
Gm 2 3 VALUE={1/GM2_VALUE}
* Load resistor
Rout1 2 0 ROUT1_VALUE
* Models and other definitions
.model NMOS_MODEL NMOS (LEVEL=1)
.param RS_VALUE=1k
.param RO1_VALUE=100k
.param RO2_VALUE=100k
.param GM2_VALUE=1m
.param ROUT1_VALUE=10k
.end
